US08198448B2
To a solution of 2,3-difluoro-5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyridine (3.0 g, 9.5 mmol) in IPA (47.7 mL, 0.2 M) at room temperature was added hydrazine (3.6 mL, 114.4 mmol). The reaction mixture was stirred at 60° C. for 2 h, at which point the reaction was cooled to room temperature and concentrated in vacuo. The concentrated material was suspended in saturated NaHCO3 solution and filtered to obtain product as a white, fluffy solid. The material was re-suspended in water (30 mL), filtered, and dried under high vacuum to obtain 1-(3-fluoro-5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyridin-2-yl)hydrazine (2.2 g, 72% yield) as an orange solid. MS m/z=322.2 [M+1]+. Calc'd for C15H20FN5O2: 321.4.

reactant | 2,3-difluoro-5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyridine | 9.5 mmol, 3.0 g | FC1=NC=C(C=C1F)C=1C=NN(C1)CCOC1OCCCC1 | C15H17F2N3O2
reactant | hydrazine | 114.4 mmol, 3.6 mL | NN | H4N2
solvent | IPA | 0.2 M, 47.7 mL | CC(C)O | C3H8O
solvent | water | 30 mL | O | H2O
product | 1-(3-fluoro-5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyridin-2-yl)hydrazine | 2.2 g, 72% yield | FC=1C(=NC=C(C1)C=1C=NN(C1)CCOC1OCCCC1)NN | C15H20FN5O2
